US04339267
2-Isopropylaminocarbonyl-N-[(6,7-dihydro-4-methyl-5H-cyclopentapyrimidin-2-yl)aminocarbonyl]benzenesulfonamide
To 21.2 ml of 25% trimethylaluminum in hexane (2.36 molar) under nitrogen is added 2.9 g of isopropyl amine in 100 ml of dried methylene chloride. The mixture is stirred at ambient temperature until evolution of methane gas ceases and then 19.5 g of methyl 2[[(6,7-dihydro-4-methyl-5H-cyclopentapyrimidin-2-yl)aminocarbonyl]aminosulfonyl]benzoate and 200 ml of dry toluene is added. The resulting mixture is heated to distill off the methylene chloride and hexane, after which heating is continued at the reflux temperature of toluene. After 2 hours, the toluene is removed in vacuo, and 200 ml of methylene chloride and 100 ml of 10% hydrochloric acid are added. The phases are separated, and the methylene chloride phase is washed once with water, dried over magnesium sulfate, and filtered, and the methylene chloride distilled to yield the desired compound.

reactant | trimethylaluminum | 21.2 ml | C[Al](C)C
reactant | isopropyl amine | 2.9 g | C(C)(C)N | C3H9N
reactant | methane | C | CH4
reactant | methyl 2[[(6,7-dihydro-4-methyl-5H-cyclopentapyrimidin-2-yl)aminocarbonyl]aminosulfonyl]benzoate | 19.5 g | CC1=NC(=NC2=C1CCC2)NC(=O)NS(=O)(=O)C2=C(C(=O)OC)C=CC=C2 | C17H18N4O5S
solvent | hexane | 2.36 molar | CCCCCC | C6H14
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Isopropylaminocarbonyl-N-[(6,7-dihydro-4-methyl-5H-cyclopentapyrimidin-2-yl)aminocarbonyl]benzenesulfonamide | C(C)(C)NC(=O)C1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC2=C(C(=N1)C)CCC2 | C19H23N5O4S
